US05362906
Step 5: (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl iodide
The (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl tosylate obtained from previous step was dissolved in acetone (50 mL), then added sodium iodide (3.30 g, 22 mmol) and the resulting mixture was stirred at room temperature for 0.5 hours followed by heating at reflux for 3 hours. After cooling, the reaction mixture was poured into cold aqueous sodium thiosulfate solution and extracted with ether. The ethereal extract was washed with water, dried and filtered. Evaporation of the filtrate left a residue which was purified by flash chromatography on a silica gel column. Elution of the column with Hexane:ether (50:1, v:v) provided the title compound (1.85 g, 5.34 mmol, 76% for two steps) as a colorless oil.

reactant | (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl tosylate | S(=O)(=O)(OCC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)C1=CC=C(C)C=C1 | C23H34O3S
reactant | sodium iodide | 22 mmol, 3.30 g | [I-].[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl iodide | 5.34 mmol, 1.85 g, 76% | C\C(=C/CCI)\CC\C=C(\CCC=C(C)C)/C | C16H27I
